US06432993B1
(46-1) t-Butyl N-{5-(4-aminophenoxy)-2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]phenyl}-N-methylcarbamate
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-[2-amino-5-(4-t-butoxycarbonylaminophenoxy)phenyl]-N-methylcarbamate (500 mg), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (366 mg), diethyl cyanophosphonate (212 mg), triethylamine (132 mg) and anhydrous tetrahydrofuran (10 ml) and the reaction mixture was purified to give the desired compound (395 mg).

reactant | t-butyl N-[2-amino-5-(4-t-butoxycarbonylaminophenoxy)phenyl]-N-methylcarbamate | 500 mg | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)NC(=O)OC(C)(C)C)N(C(OC(C)(C)C)=O)C | C23H31N3O5
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 366 mg | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 212 mg | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 132 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{5-(4-aminophenoxy)-2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]phenyl}-N-methylcarbamate | 395 mg | NC1=CC=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)NC(COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)=O)C=C1 | C30H32N4O7S
